US07951963B2
To methanol (5 mL) solution of 5.00 g of methyl 3-(2-(1-benzothiophen-5-yl)ethoxy)propionate was added water (5 mL) solution of 1.27 g of potassium hydroxide, which was then stirred at room temperature for 2 hours. This reaction mixture was distilled off under reduced pressure, to which were added 30 mL of toluene and 30 mL of water. The pH was adjusted to 1.0 with 5 mL of 6 mol/L hydrochloric acid. The organic layer was separated, followed by distilling off the solvent under reduced pressure. Thereto were added 11 mL of toluene and 30 mL of cyclohexane. The precipitate was collected by filtration to provide 4.51 g of 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid as white solid form.

reactant | methanol | 5 mL | CO | CH4O
reactant | methyl 3-(2-(1-benzothiophen-5-yl)ethoxy)propionate | 5.00 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)OC | C14H16O3S
reactant | potassium hydroxide | 1.27 g | [OH-].[K+]
solvent | water | 5 mL | O | H2O
product | 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid | 4.51 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
